US07217724B2
To a solution of 3-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-(methyl)ethylamino]ethyl}-1H-indole-7-carboxylic acid (29.1 mg, 0.0821 mmol) in N,N-dimethylformamide (3 mL) are added ethylamine hydrochloride (67 mg, 0.822 mmol), triethylamine (171 μL, 1.23 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (WSCI) hydrochloride (78.7 mg, 0.411 mmol) and 1-hydroxybenzotriazole (HOBt, 55.5 mg, 0.411 mmol), and the mixture is stirred at room temperature for 17 hours. The reaction solution is poured into a saturated aqueous sodium hydrogen carbonate solution, and the mixture is separated into chloroform. The organic layer is washed with a saturated brine and dried over anhydrous sodium sulfate. The solvent is removed by distillation, and the resulting crude product is purified by preparative TLC (a saturated ammonia solution in chloroform:methanol=20:1) to give 3-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-(methyl)ethyl-amino]ethyl}-1H-indole-7-carboxylic acid ethylamide (7.5mg, 0.0197 mmol, 24%).

reactant | 3-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-(methyl)ethylamino]ethyl}-1H-indole-7-carboxylic acid | 0.0821 mmol, 29.1 mg | O[C@@H]([C@H](C)NCCC1=CNC2=C(C=CC=C12)C(=O)O)C1=CC=C(C=C1)O | C20H22N2O4
reactant | ethylamine hydrochloride | 0.822 mmol, 67 mg | Cl.C(C)N
reactant | triethylamine | 1.23 mmol, 171 μL | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydrochloride | 0.411 mmol, 78.7 mg | Cl | ClH
reactant | 1-hydroxybenzotriazole | 0.411 mmol, 55.5 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 3-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-(methyl)ethyl-amino]ethyl}-1H-indole-7-carboxylic acid ethylamide | 0.0197 mmol, 7.5mg, 24% | C(C)NC(=O)C=1C=CC=C2C(=CNC12)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C | C22H27N3O3
